Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
esophageal injury
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ year old male who is transferred from
___ after discovery of esophageal injury secondary
to food impaction and wretching associated with hematemesis. He
states that he was at a potluck and felt food lodge in his
throat/chest after swallowing a large piece of beef stroganoff.
He states he tried to cough and vomit the piece up without
success. After trying several times, he had one episode of
hematemesis of a mouth full of bright red blood and was brought
to the ___. He underwent EGD that identified a distal
esophageal tear and the food bolus was successfully pushed into
the stomach. He also underwent CT scan post-procedure that noted
small amount of mediastinal air and left lower lobe lung
infiltrates. He was subsequently transferred to ___ for 
further
care.

In the ED, his vital signs were notable for tachycardia to 
110's.
He was otherwise hemodynamically stable, comfortably conversant.
He had some chest pain and sternal tenderness, but that has
improved. His post-procedure abdominal pain also improved and he
continued to pass flatus. He did endorse some nausea, but no 
more
vomiting, no shortness of breath, no fevers, chills, dysuria, or
blood per rectum.
 
Past Medical History:
anxiety, hypertension, hyperlipidemia

Past Surgical History: 
Right heel spur removal
 
Social History:
___
Family History:
no known cancers
 
Physical Exam:
Physical Exam: 
VS: 98.8 118 109/58 23 96%
GEN: no acute distress, no voice changes
HEENT: NCAT, EOMI, MMM, no subcutaneous emphysema
CV: tachycardic, regular rhythm, no M/R/G
PULM: Easy work of breathing, clear
to auscultation. Midsternal tenderness to palpation without
subcutaneous emphysema
ABD: Soft, mildly distended, nontender
EXT: Warm, no edema
 
Pertinent Results:
___ 06:59AM BLOOD WBC-14.6* RBC-4.32* Hgb-13.4* Hct-40.2 
MCV-93 MCH-31.0 MCHC-33.3 RDW-12.9 RDWSD-44.1 Plt ___
___ 12:41PM BLOOD WBC-23.0*# RBC-4.26* Hgb-13.3* Hct-39.6* 
MCV-93 MCH-31.2 MCHC-33.6 RDW-13.1 RDWSD-44.7 Plt ___
___ 07:15PM BLOOD WBC-17.3* RBC-3.57* Hgb-11.1* Hct-34.0* 
MCV-95 MCH-31.1 MCHC-32.6 RDW-13.2 RDWSD-46.7* Plt ___
___ 05:41AM BLOOD WBC-12.7* RBC-3.57* Hgb-10.9* Hct-34.5* 
MCV-97 MCH-30.5 MCHC-31.6* RDW-13.4 RDWSD-47.5* Plt ___
___ 06:09AM BLOOD WBC-8.7 RBC-3.72* Hgb-11.5* Hct-35.4* 
MCV-95 MCH-30.9 MCHC-32.5 RDW-13.0 RDWSD-45.1 Plt ___
___ 12:41PM BLOOD Glucose-107* UreaN-21* Creat-1.7* Na-140 
K-4.3 Cl-105 HCO3-24 AnGap-15
___ 07:15PM BLOOD Glucose-122* UreaN-20 Creat-1.6* Na-139 
K-4.3 Cl-107 HCO3-22 AnGap-14
___ 05:41AM BLOOD Glucose-131* UreaN-17 Creat-1.5* Na-139 
K-4.5 Cl-107 HCO3-24 AnGap-13
___ 06:09AM BLOOD Glucose-113* UreaN-12 Creat-1.2 Na-137 
K-3.9 Cl-106 HCO3-24 AnGap-11

___ Barium esophagram
1.  No evidence of esophageal perforation.
2.  Consolidation in the left lower lobe, likely representing 
pneumonia or
aspirated blood related to recent hematemesis.

___ CXR
As compared to ___, the pre-existing parenchymal 
opacity in the
left lung base has minimally decreased in extent and severity.  
No new focal parenchymal opacities.  Unchanged normal lung 
volumes.  Mild cardiomegaly with elongation of the descending 
aorta.  No pleural effusions.
 
Brief Hospital Course:
Mr. ___ is ___ year old male with food bolus impaction & 
hematemesis who underwent EGD at ___ with note of 
distal esophageal injury and concern for ___ tear. CT 
at the time also noted LLL consolidation.  He was transferred to 
___ ___ for evaluation and management. Barium esophagram 
obtained upon arrival revealed no extravasation of contrast, but 
noted LLL consolidation with concern for aspiration pneumonia.   
The patient also had an elevated creatinine, likely representing 
___ in the setting of inadequate fluid resuscitation while NPO.  
The patient was admitted to the thoracic surgery service and 
given aggressive IV hydration, Zosyn to empiraclly treat 
possible aspiration PNA (patient with leukocytosis) and 
continued NPO. On HD 2 his WBC was downtrending, his Hct was 
stable, and his LLL consolidation had not worsened.  On HD 3 the 
patient's white count and creatinine had normalized and his diet 
was sequentially advanced to full liquids which he tolerated 
well.  His chest film revealed mild improvement in his LLL 
consolidation and the patient was deemed ready for discharge.  
At the time of discharge the patient was ambulating 
independently, denied further chest or abdominal pain, was 
voiding normally, and was hemodynamically stable. He was given 
instructions to advance his diet as tolerated to softs/pureed at 
home but remain on this diet until seen at follow-up.
The patient was discharged with a one week course of Augmentin 
and six weeks PPI. He will follow-up in one week in thoracic 
surgery clinic with a chest film to evaluate his LLL 
consolidation.
 
Discharge Medications:
1. Acetaminophen (Liquid) 650 mg PO Q6H:PRN pain 
RX *acetaminophen 650 mg/20.3 mL 20.3 ml by mouth every six (6) 
hours Refills:*0
2. Lansoprazole Oral Disintegrating Tab 30 mg PO BID Duration: 6 
Weeks 
RX *lansoprazole [Prevacid SoluTab] 30 mg 1 tablet(s) by mouth 
twice a day Disp #*85 Tablet Refills:*0
3. Amoxicillin-Clavulanate Susp. 500 mg PO Q8H Duration: 7 Days 
RX *amoxicillin-pot clavulanate 250 mg-62.5 mg/5 mL 10 ml by 
mouth every eight (8) hours Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ tear

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, you were admitted to the thoracic surgery 
service at ___ with an esophageal injury and concern for 
aspiration pneumonia.  You are recovering well and are now ready 
for discharge. Please follow the instructions below to continue 
your recovery:

Call the thoracic surgery office ___ if you experience:
-Fevers > 101 or chills
-Difficult or painful swallowing
-Nausea, vomiting.
-Increased shortness of breath

Pain
-Acetaminophen 650 mg every 6 hours as needed

Diet:
Full liquid diet. Increase slowly to soft solids as tolerated, 
do not advance beyond softs/pureed until seen at follow-up 
appointment.

Eat small frequent meals. Sit in chair for all meals.

NO CARBONATED DRINKS
 
Followup Instructions:
___